### PR TITLE
Extend comparison predicates for nat with minn and maxn and reorder arguments of those in order.v

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR partially addresses #404. It extends the comparison predicates `leqP`, `ltnP`, and `ltngtP` in `ssrnat.v` to allow case analysis on `minn` and `maxn`. It also changes the ordering of arguments of `lcomparableP`, `(lcomparable_)leP`, `(lcomparable_)ltP`, and `(lcomparable_)ltgtP` in `order.v`.

##### Things done/to do

- [x] merge dependency: #435
- [x] added a compatibility module
- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/ssrnat.v [hunk 1]
```diff
@@ -820,6 +776,61 @@ Qed.
...
 Proof. by move=> m n1 n2; rewrite !(minnC m) minn_maxl. Qed.
 
+(* Comparison predicates. *)
+
+Variant leq_xor_gtn m n : bool -> bool -> nat -> nat -> nat -> nat -> Set :=
+  | LeqNotGtn of m <= n : leq_xor_gtn m n true false m m n n
+  | GtnNotLeq of n < m  : leq_xor_gtn m n false true n n m m.
+
+Lemma leqP m n : leq_xor_gtn m n (m <= n) (n < m)
+                             (minn n m) (minn m n) (maxn n m) (maxn m n).
```
Comment (pi8027) [inline mathcomp/ssreflect/ssrnat.v]: Currently, this ordering is the same as in `order.v` but probably should be `(minn n m) (minn m n) (maxn n m) (maxn m n) (m <= n) (n < m)`.

Comment (pi8027) [reply mathcomp/ssreflect/ssrnat.v]: Done. I also changed `order.v` consistently.

**Comment by pi8027** [comment]
I just changed the title and resolved a conflict with #453. Since `order.v` has not been released yet, I'm still not sure how it should be recorded in CHANGELOG.

File: CHANGELOG_UNRELEASED.md [hunk 2]
```diff
@@ -92,6 +92,43 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+        (y `&` x) (x `&` y) (y `|` x) (x `|` y)
+        (y == x) (x == y) (x >= y) (x <= y) (x > y) (x < y) (y >=< x) (x >=< y).
+      ltgtP x y : comparel x y
+        (y `&` x) (x `&` y) (y `|` x) (x `|` y)
+        (y == x) (x == y) (x >= y) (x <= y) (x > y) (x < y).
+      leP x y :
+        lel_xor_gt x y (y `&` x) (x `&` y) (y `|` x) (x `|` y) (x <= y) (y < x).
+      ltP x y :
+        ltl_xor_ge x y (y `&` x) (x `&` y) (y `|` x) (x `|` y) (y <= x) (x < y).
+      ```
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md]: So I did this documentation work. Since we decided to have a beta release, I think we should keep this entry in the beta version and remove it in the stable release.

**Comment by pi8027** [comment]
Hello @ggonthier, @CohenCyril, can we merge this before the next beta release? Thanks.

File: CHANGELOG_UNRELEASED.md (hunk 2 above)
Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md]: I agree

**Comment by ybertot** [comment]
There remains a tag "Needs:documentation" that is confusing for release managers.  Can you please clarify, complete the work if needed, and merge?  @CohenCyril @ggonthier

**Comment by CohenCyril** [comment]
> There remains a tag "Needs:documentation" that is confusing for release managers. Can you please clarify, complete the work if needed, and merge? @CohenCyril @ggonthier

I was a bit worried about the backward compatibility issues triggered by this PR, but after @pi8027's experiments, it does not not look so bad. I also thought @ggonthier could be opposed to it for the same reasons (or others?). I think we can merge for the beta and backtrack if this causes more trouble than relief to our users (in the former case, we could have distinct spec lemmas for the enhanced cased analysis instead of overloading `leqP`...).

**Comment by ybertot** [comment]
Thanks @pi8027 @CohenCyril
